US04132786
Preparation of 2-amino-4-chloranisole
0.037 mol (7 g) of 4-chloro-2-nitroanisole is dissolved in 100 ml of absolute alcohol and 3 g of nickel prepared by the RANEY process are added. The solution is hydrogenated at atmospheric pressure and at room temperature while stirring. The catalyst is separated and then washed with two portions of 20 ml of boiling ethanol. The alcoholic solution is concentrated under reduced pressure; the 2-amino-4-chloroanisole crystallizes.

reactant | 4-chloro-2-nitroanisole | 0.037 mol, 7 g | ClC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
catalyst | nickel | 3 g | [Ni] | Ni
product | 2-amino-4-chloranisole | NC1=C(C=CC(=C1)Cl)OC | C7H8ClNO
